data/rdb19/train.csv
rxn,smiles,ea
1868,[C:15]([C:16](=[O:17])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:19]([O:18][C:16]([C:15]([H:21])([H:22])[H:23])=[O:17])([C:20]([H:25])[H:26])[H:24])([H:11])[H:12])([H:8])([H:9])[H:10],18.012072640645783
3652,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5]([H:6])([H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17]([C:18]=[O:19])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])=[C:5]([H:6])[H:7])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][O:20][C:21](=[C:22]([H:27])[H:28])[H:26],71.09784071380273
1757,[C:15]([C:16](=[C:17]([H:22])[H:23])[C:18]([H:24])([H:25])[H:26])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:17]([C:16]([C:15]([H:19])([H:20])[H:21])[C:18]([H:24])([H:25])[H:26])([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10],16.031787927204277
1829,[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:27])([H:11])[H:12])([H:8])([H:9])[H:10],25.76806385914097
3519,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])=[C:5]([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8].[H:14][C:22]([C:21]([O:20][C:18]([C:17]([H:23])([H:24])[H:25])=[O:19])[H:26])([H:27])[H:28],33.84759858966572
4111,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[C:25]1([H:33])[C:24]([H:32])[C:23]([H:31])=[C:22]([C:21](=[C:20]([H:28])[H:29])[H:30])[C:27]([H:35])=[C:26]1[H:34])([H:12])[H:13])([H:9])([H:10])[H:11],21.868658745952416
812,[C:19]([C:20]([C:21]([H:31])([H:32])[H:33])([C:22]([H:23])[H:24])[C:25](=[O:26])[O:27][H:34])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:14])([H:15])([H:16])[C:22]([C:20]([C:19]([H:28])([H:29])[H:30])([C:21]([H:31])([H:32])[H:33])[C:25](=[O:26])[O:27][H:34])([H:23])[H:24],52.9073022804223
1338,[C:10]([C:11]([C:12]([H:13])[H:14])([C:15](=[O:16])[N:17]([H:22])[H:23])[H:21])([H:18])([H:19])[H:20].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[H:6][C:12]([C:11]([C:10]([H:18])([H:19])[H:20])([C:15](=[O:16])[N:17]([H:22])[H:23])[H:21])([H:13])[H:14].[O:1][C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7],25.96545980760129
5181,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[H:29])([N:30]([C:31](=[O:32])[H:38])[H:37])[H:36])([H:33])([H:34])[H:35]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([C:5]1([H:36])[C:6]([H:20])[C:7]([H:21])=[C:8]([H:22])[C:9]([H:23])=[C:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26](=[C:27]([H:28])[H:29])[N:30]([C:31](=[O:32])[H:38])[H:37])([H:33])([H:34])[H:35],41.24213202908868
823,[C:19]([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])[H:9].[H:10][C:19]([H:20])([H:21])[H:22],20.184343574394006
889,[C:19]([C:20]([C:21]([H:22])[H:23])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([C:20](=[C:21]([H:22])[H:23])[O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])([H:28])([H:29])[H:30].[C:1]([H:8])([H:9])[H:10].[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])([H:12])[H:31],88.050079068169
